Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],1.0341109624200002
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:5][H:6],5.49321097624
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.946680947271
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.37211822791
[C:1]#[C:2].[C:3]([H:4])([H:5])[H:6]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6],-5.40902643081
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16],5.03738036994
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[O:1]=[C:2]([H:3])[H:4],2.33506908916
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.0432580942400005
[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4][O:8][H:9]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9],-4.75107785864
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2],6.23605140338
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.37811821858
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],0.96297847286
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6][H:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-7.744169739199999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.60911825825
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-6.691446537490001
[H:1][C:2]([H:3])([C:4]=[O:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.5583045556399999
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-8.22961428
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.62985131407
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.06419476266
[O:1]=[C:2]=[O:3]>>[C:2]=[O:3].[O:1],5.9124526416
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[C:2]#[C:3],8.004764208160001
[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.98594253821
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],5.15435372824
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],4.99689690714
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.98252963794
[H:1][C:2]#[C:3].[O:4][O:5][H:6]>>[H:1][C:2]#[C:3][O:4][O:5][H:6],-4.11617126713
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.10715538708
[H:13].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.60886496925
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12],3.75616379898
